US07291635B2
400 mg (911 μmol) of the title B compound, 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoyl chloride, 140 μL (1.0 mmol) of TEA and 141 mg (914 μmol) of 4-(methylthio)benzyl alcohol in 10 mL of CH2Cl2 are stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue is chromatographed on a Biotage 40M column with 98/2 —CH2Cl2/EtOAc to give 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid 4-methylsulfanyl-benzyl ester: [M+NH4]+=574.

reactant | 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoyl chloride | COC1=C(CN2C(CN(S2(=O)=O)CC2=CC=C(C(=O)Cl)C=C2)=O)C=CC(=C1)OC | C19H19ClN2O6S
reactant | 4-(methylthio)benzyl alcohol | 914 μmol, 141 mg | CSC1=CC=C(CO)C=C1 | C8H10OS
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzoic acid 4-methylsulfanyl-benzyl ester | CSC1=CC=C(COC(C2=CC=C(C=C2)CN2S(N(C(C2)=O)CC2=C(C=C(C=C2)OC)OC)(=O)=O)=O)C=C1 | C27H28N2O7S2
